US05298498
[2,3,5,6-tetrachloro-1,4-phenylenebis(methylene)]bisphosphonic acid tetramethyl ester
A mixture of α,α',2,3,5,6-hexachloro-p-xylene (6.26 g, 0.02 mol) in toluene (60 mL) and trimethylphosphite (7.0 mL, 7.4 g, 0.06 mol) is heated to reflux temperature. The flask is set up with a condenser, Dewi-Stark trap, and the nitrogen inlet positioned so that any methyl chloride produced in the reaction will be swept out the condenser. A clear solution resuites with heating and the solution is heated at reflux for 18 hours. The toluene is distilled from the flask via the Dean-Stark trap, more trimethylphosphite is added (7.0 mL), and the reaction is heated with an oil bath (~110° C.) for 48 hours. After standing at room temperature, a white solid formed in the flask. A TLC indicated that no starting material remained. Toluene (100 mL) is added to flask and the mixture is heated at reflux temperature with stirring until a clear solution is obtained. The reaction mixture is allowed to cool to room temperature and a white precipitate formed. The white solid is collected by filtration, washed with hexane, dried in a vacuum desiccator, to give 5.17 g of title compound, mp 179°-181° C. Recrystallization from ethyl acetate gives 2.44 g as white crystals, mp 181°-182° C. There are some problems keeping the product in solution during the filtration of the hot ethyl acetate solution so that a considerable amount of material crystallized out during filtration. These crystals are combined with the filtrate from the collection of the first crop and yielded 2.27 g. This material is recrystallized from ethyl acetate giving a second crop of 2.22 g, mp 181°-182° C.

reactant | α,α',2,3,5,6-hexachloro-p-xylene | 0.02 mol, 6.26 g | ClCC1=C(C(=C(C(=C1Cl)Cl)CCl)Cl)Cl | C8H4Cl6
reactant | trimethylphosphite | 0.06 mol, 7.0 mL, 7.4 g | COP(OC)OC | C3H9O3P
reactant | methyl chloride | CCl | CH3Cl
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | [2,3,5,6-tetrachloro-1,4-phenylenebis(methylene)]bisphosphonic acid tetramethyl ester | 5.17 g | COP(OC)(=O)CC1=C(C(=C(C(=C1Cl)Cl)CP(OC)(OC)=O)Cl)Cl | C12H16Cl4O6P2
